US04859230
2-[4-Chloro-5-(2,2-difluorocyclopropylmethoxy)-2-fluorophenyl]-4,5,6,7-tetrahydro-(2H)-1,2,3-triazolo[3,4-a]pyridin-8-ium-3-olate (Compound No 2.1)
4.6 g 4-Chloro-5-(2,2-difluorocyclopropylmethoxy)-2-fluoroaniline was suspended in a mixture of 9.7 ml concentrated sulphuric acid and 41.5 ml water and cooled to -10° C. A solution of 1.38 g sodium nitrite in 4.2 ml water was added dropwise at such a rate that the temperature of the reaction mixture did not rise above -5° C. After the addition it was stirred for a further hour at -5° C. and excess nitrous acid destroyed with urea until a test with iodine-starch paper was negative. The solution thus obtained was warmed to 0° C. and added dropwise to an ice-cold solution of 2.3 g pipecolic acid and 8.3 ml triethylamine in 27.7 ml water. After the addition it was stirred for a further hour at 0° C. and the reaction mixture extracted several times with methylene chloride. The organic phases were combined, dried over magnesium sulphate and the solvent evaporated. The residue was taken up in 40 ml ether and treated with 4.14 ml acetic anhydride and 2.07 ml pyridine. The mixture was stirred overnight at room temperature, then poured into ice-water and extracted with ethyl acetate. The organic phases were dried over magnesium sulphate and the solvent evaporated. The residue was chromatographed on silica gel using 95 parts ethyl acetate and 5 parts methanol as eluent.

reactant | 4-Chloro-5-(2,2-difluorocyclopropylmethoxy)-2-fluoroaniline | 4.6 g | ClC1=CC(=C(N)C=C1OCC1C(C1)(F)F)F | C10H9ClF3NO
reactant | sodium nitrite | 1.38 g | N(=O)[O-].[Na+]
reactant | pipecolic acid | 2.3 g | N1C(C(=O)O)CCCC1 | C6H11NO2
reactant | triethylamine | 8.3 ml | C(C)N(CC)CC | C6H15N
solvent | sulphuric acid | 9.7 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 41.5 ml | O | H2O
solvent | water | 4.2 ml | O | H2O
solvent | water | 27.7 ml | O | H2O
product | 2-[4-Chloro-5-(2,2-difluorocyclopropylmethoxy)-2-fluorophenyl]-4,5,6,7-tetrahydro-(2H)-1,2,3-triazolo[3,4-a]pyridin-8-ium-3-olate | ClC1=CC(=C(C=C1OCC1C(C1)(F)F)N1N=[N+]2C(CCCC2)=C1[O-])F | C16H15ClF3N3O2
